US04259338
2.97 g (0.01 mol) of N-methyl-3-(6,7,8,9-tetrahydro-2-dibenzofuranyl)-glutarimide are added in portions to a suspension of 7.6 g (0.020 mol) of lithium aluminium hydride in 50 ml of anhydrous ester in the course of 10 minutes at room temperature. The reaction mixture is stirred at room temperature for 3 hours and thereafter cooled to 0° and excess reducing agent is decomposed by adding 0.74 ml of water, 0.74 ml of 2 N sodium hydroxide solution and thereafter 22.4 ml of water. After 30 minutes, the mixture is filtered through diatomaceous earth, and the filtrate is dried over sodium sulfate and evaporated to dryness under a waterpump vacuum. The crude 1-methyl-4-(6,7,8,9-tetrahydro-2-dibenzofuranyl)-piperidine thereby obtained is dissolved in methanol and, by addition of an ethereal solution of hydrogen chloride, its hydrochloride is precipitated in the form of white crystals melting at 279°-281°.

reactant | N-methyl-3-(6,7,8,9-tetrahydro-2-dibenzofuranyl)-glutarimide | 0.01 mol, 2.97 g | CN1C(CC(CC1=O)C1=CC2=C(OC3=C2CCCC3)C=C1)=O | C18H19NO3
reactant | lithium aluminium hydride | 0.020 mol, 7.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2 N, 0.74 ml | [OH-].[Na+]
solvent | water | 22.4 ml | O | H2O
solvent | water | 0.74 ml | O | H2O
product | 1-methyl-4-(6,7,8,9-tetrahydro-2-dibenzofuranyl)-piperidine | CN1CCC(CC1)C1=CC2=C(OC3=C2CCCC3)C=C1 | C18H23NO
